US06194487B1
The base particles, along with helium gas, were cooled and introduced through the particle intake 4 into the vapor atmosphere of 1,4-butanedisulfonyl chloride in the condensing chamber 26. Next, in the mixing section 22, the vapor of 1,4-butanedisulfonyl chloride was cooled, and the introduced base particles were exposed thereto for 10 minutes. Consequently, a polymerization reaction, using as a catalyst triethylenediamine contained in the base particles, took place on the surface of the base particles between di(2-mercaptoethyl)ether and 1,4-butanedisulfonyl chloride, forming a film of di(2-mercaptoethyl)ether-1,4-butanedisulfonyl chloride co-polymer.

reactant | 1,4-butanedisulfonyl chloride | C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | C4H8Cl2O4S2
reactant | triethylenediamine | C1CN2CCN1CC2 | C6H12N2
reactant | di(2-mercaptoethyl)ether | SCCOCCS | C4H10OS2
product | di(2-mercaptoethyl)ether 1,4-butanedisulfonyl chloride | SCCOCCS.C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | InChI=1S/C4H8Cl2O4S2.C4H10OS2/c5-11(7,8)3-1-2-4-12(6,9)10;6-3-1-5-2-4-7/h1-4H2;6-7H,1-4H2
